US04242355
A mixture of 29 g of tryptamine and 30 g of 3-methoxy-phenylacetic acid was heated at 200° C. for one hour and after cooling the mixture to 50° C., the mixture was dissolved in 200 ml of ethyl acetate. The organic phase was washed successively with N hydrochloric acid, with water, with 2 N sodium hydroxide and with water and was dried and evaporated to dryness. The 59 g of red oil were crystallized from ether and the mixture was vacuum filtered. The product was dried to obtain 47.2 g of 3-methoxy-N-[2-(1H-indol-3-yl)-ethyl]-benzeneacetamide in the form of a beige solid melting at 78° C. which was used as is for the next step. A sample recrystallized from ether melted at 82° C.

reactant | tryptamine | 29 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | 3-methoxy-phenylacetic acid | 30 g | COC=1C=C(C=CC1)CC(=O)O | C9H10O3
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 3-methoxy-N-[2-(1H-indol-3-yl)-ethyl]-benzeneacetamide | 47.2 g | COC=1C=C(C=CC1)CC(=O)NCCC1=CNC2=CC=CC=C12 | C19H20N2O2
